US08193214B2
3-Naphthalen-1-ylmethyl-imidazo[1,2-a]pyridine-2-thione
A suspension of 200 mg (0.73 mmol) of 3-naphthalen-1-ylmethyl-imidazo[1,2-a]pyridin-2-one and 250 mg (0.62 mmol) of 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane 2,4-disulfide (Lawesson's reagent) in 20 mL of toluene is heated at 160° C. for 1 h under microwave condition. The resulting mixture is dissolved in methanol and absorbed on silica gel. The slurry is dried under reduced pressure and is purified by flash chromatography on silica gel. The compound is eluted 5˜10% methanol in dichloromethane solution to give the desired compound.

reactant | 3-naphthalen-1-ylmethyl-imidazo[1,2-a]pyridin-2-one | 0.73 mmol, 200 mg | C1(=CC=CC2=CC=CC=C12)CC1C(N=C2N1C=CC=C2)=O | C18H14N2O
reactant | 2,4-bis-(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane 2,4-disulfide | 0.62 mmol, 250 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 3-Naphthalen-1-ylmethyl-imidazo[1,2-a]pyridine-2-thione | C1(=CC=CC2=CC=CC=C12)CC1C(N=C2N1C=CC=C2)=S | C18H14N2S
